US04698094
0.9 g of N,O-dimethylhydroxylamine and 1.5 g of triethylamine were dissolved in 20 ml of N,N-dimethylacetamide at 5° C., followed by addition of 3.5 g of 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetyl chloride. The reaction was allowed to proceed at 5° C. for 1 hour and then at room temperature for further 3 hours to complete the reaction. After completion of the reaction, 50 ml of water was added to the liquid reaction mixture, followed by extraction twice with 30 ml portions of ether. The ether layer was washed with dilute hydrochloric acid and water and dried over anhydrous sodium sulfate, and the ether was distilled off under reduced pressure to obtain 3.5 g of N-methyl-N-methoxy-2-nitro-5-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetamide.

reactant | N,O-dimethylhydroxylamine | 0.9 g | CNOC | C2H7NO
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetyl chloride | 3.5 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)Cl)C=CC(=C1)C(F)(F)F | C15H9Cl2F3O2
reactant | water | 50 ml | O | H2O
reactant | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | N-methyl-N-methoxy-2-nitro-5-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetamide | 3.5 g | CN(C(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O)OC | C17H14ClF3N2O5
